US07615569B2
To a solution of 4-acetyl-N-thiazol-2-yl-benzenesulfonamide (10 mmol) in THF (50 mL) was added pyridinium tribromide (10 mmol), and the mixture was stirred for 4 h. The reaction mixture was diluted with water (30 mL) and the resulting mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by column chromatography to give 4-(2-bromo-acetyl)-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (8.2 mmol) as a white solid.

reactant | 4-acetyl-N-thiazol-2-yl-benzenesulfonamide | 10 mmol | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C11H10N2O3S2
reactant | pyridinium tribromide | 10 mmol | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 4-(2-bromo-acetyl)-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 8.2 mmol | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC | C13H13BrN2O4S2
